US06211199B1
48.2 Synthesis of 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1-(2-oxobutyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(3,4-difluorophenyl)pyrrolidine Hydrochloride Salt
Combine 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1-(2-oxobutyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(3,4-difluorophenyl)pyrrolidine (1.38 g) and methanol (100 mL). Add a solution of hydrochloric acid (1.90 mL, 4 M in dioxane) and stir. After 18 hour, evaporate in vacuo to give a residue. Combine the residue and methanol (5 mL) and stir rapidly. Add diethyl ether (200 mL). After 2 hours, decant the solvent and add diethyl ether. After 18 hours, collect the solid and dry in vacuo at 65° C. to give the title compound: mp; 180-184° C.

reactant | 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1-(2-oxobutyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(3,4-difluorophenyl)pyrrolidine | 1.38 g | COC=1C=C(C(=O)N2CC(CC2)(C2=CC(=C(C=C2)F)F)CCN2CCC(CC2)NC2=NC3=C(N2CC(CC)=O)C=CC=C3)C=C(C1OC)OC | C38H45F2N5O5
reactant | methanol | 100 mL | CO | CH4O
reactant | hydrochloric acid | 4 M, 1.90 mL | Cl | ClH
reactant | methanol | 5 mL | CO | CH4O
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
product | 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1-(2-oxobutyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(3,4-difluorophenyl)pyrrolidine Hydrochloride Salt | Cl.COC=1C=C(C(=O)N2CC(CC2)(C2=CC(=C(C=C2)F)F)CCN2CCC(CC2)NC2=NC3=C(N2CC(CC)=O)C=CC=C3)C=C(C1OC)OC | InChI=1S/C38H45F2N5O5.ClH/c1-5-28(46)23-45-32-9-7-6-8-31(32)42-37(45)41-27-12-16-43(17-13-27)18-14-38(26-10-11-29(39)30(40)22-26)15-19-44(24-38)36(47)25-20-33(48-2)35(50-4)34(21-25)49-3;/h6-11,20-22,27H,5,12-19,23-24H2,1-4H3,(H,41,42);1H
